US04188390
8-Methoxy-1,4-benzodioxan-2-carboxamide (2.41 g.) in 50% hydrochloric acid (35 ml.) was stirred at 100° C. for 1 hour. The resulting solution was cooled, diluted with water (200 ml.), extracted with chloroform (3×100 ml.) then the extracts dried (MgSO4) and evaporated in vacuo. The solid residue (1.8 g.) was recrystallized from water (m.p. 75°-78° C.) then from ethyl acetate/hexane to give 8-methoxy-1,4-benzodioxan-2-carboxylic acid, m.p. 131°-132° C.

reactant | 8-Methoxy-1,4-benzodioxan-2-carboxamide | 2.41 g | COC1=CC=CC2=C1OC(CO2)C(=O)N | C10H11NO4
reactant | water | 200 ml | O | H2O
solvent | hydrochloric acid | 35 ml | Cl | ClH
product | 8-methoxy-1,4-benzodioxan-2-carboxylic acid | COC1=CC=CC2=C1OC(CO2)C(=O)O | C10H10O5
